US06307047B1
3,4-Difluorophenylhydrazine
A stirred mixture of 3,4-difluoroaniline (12.9 g, 0.1 mol) in concentrated hydrochloric acid (60 mL) was chilled to −10° C. with an ice/methanol bath. A solution of sodium nitrite (6.9 g, 0.1 mol) in water (30 mL) was added at a rate which maintained the temperature of the reaction mixture below 10° C. After stirring for 2 hours, the reaction mixture was cooled to 0° C. and a solution of tin(II) chloride (56.88 g, 0.3 mol) in concentrated hydrochloric acid (50 mL) was added dropwise with vigorous stirring. Additional concentrated hydrochloric acid (150 mL) was added to the reaction mixture and stirring was continued for 2 hours. The reaction mixture was filtered to collect the precipitated hydrochloride salt of the title compound. This precipitate was dissolved in water (75 mL) and the resulting solution was basified with 50% aqueous sodium hydroxide and extracted with ethyl acetate. The organic extracts were dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo to provide the title intermediate as a brown oil (8.11 g, 57.4%).

reactant | 3,4-difluoroaniline | 0.1 mol, 12.9 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | sodium nitrite | 0.1 mol, 6.9 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 0.3 mol, 56.88 g | [Sn](Cl)Cl
solvent | hydrochloric acid | 60 mL | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | hydrochloric acid | 150 mL | Cl | ClH
product | 3,4-Difluorophenylhydrazine | 8.11 g, 57.4% | FC=1C=C(C=CC1F)NN | C6H6F2N2
